*************************************
* nTron                             *
*************************************
.subckt ntron_r g d s r_g r_d r_c r_s
+ params: width_g=12n
+ width_s=200n width_d=200n width_c=108n
+ sq_g=22 sq_d=200 sq_s=22 sq_c=10 thickness=4n
+ sheetRes=400 Tc=10.5 Tsub=4 Jc=46G C=1 A1=0.4
+ beta = 12.82e-6
*Jc at T=Tsub in units of amps/m2
*sheetRes has units of ohms/sq
*Tc is critical temp and has units of K
*Tsub is substrate temp and has units of K
*C is constrition factor
*beta is the exponential empirical parameter for Ic

*Critical currents
.PARAM Isw_g={Jc*width_g*thickness*C}
.PARAM Isw_d={Jc*width_d*thickness*C}
.PARAM Isw_s={Jc*width_s*thickness*C}
.PARAM Isw_c={Jc*width_c*thickness*C}

*Thermal Parameters
.PARAM kappa = 2.44e-8*Tc/(sheetRes*thickness);
* thermal conductivity W/m K
.PARAM heatCapacity = 4400
* heat capacity J/m^3 K
.PARAM hc = 50k
* thermal conductivity of surface W/m^2 K

*Electrical/Superconducting Parameters
.PARAM inductivity = {1.38p*sheetRes/Tc}
* H/square

.PARAM Lind_g = {inductivity*sq_g}
.PARAM Lind_d = {inductivity*sq_d}
.PARAM Lind_s = {inductivity*sq_s}
.PARAM Lind_c = {inductivity*sq_c}

.PARAM  minSquares = {1/sheetRes}
* # squares for minimum resistance
* Normal resistances
.PARAM Rnorm_g = {sheetRes*sq_g}
.PARAM Rnorm_d = {sheetRes*sq_d}
.PARAM Rnorm_s = {sheetRes*sq_s}
.PARAM Rnorm_c = {sheetRes*sq_c}

* units of ohms/square
.PARAM psi={sheetRes*(Jc*thickness)**2/
+(hc*(Tc-Tsub))}
* psi is the Stekly parameter.
.PARAM vo={1*sqrt(hc*kappa/thickness)/
+heatCapacity}
* vo is characteristic velocity

.PARAM Ihs_g={sqrt(2/psi)*Isw_g}
.PARAM Ihs_s={sqrt(2/psi)*Isw_s}
.PARAM Ihs_c={sqrt(2/psi)*Isw_c}

.PARAM Vthresh_g={minSquares*sheetRes*Ihs_g}
.PARAM Vthresh_s={minSquares*sheetRes*Ihs_s}
.PARAM Vthresh_c={minSquares*sheetRes*Ihs_c}

*Unitless Parameters
.PARAM delta={0.01}
* a small offset value for avoiding
* singularity in hotspot velocity


*********************************************************************************


** MAIN CIRCUIT GATE **
* inductor
Lg g N1 Flux=((1-(v(N3)/{Rnorm_g})+0.001)*{Lind_g}/(2*cos((2/3)*
+asin((0.6*abs(x))/{Isw_g}))-1))*x Rser = 1e-100

* hotspot resistor
B1 N1 center V=(v(N3)+abs(v(N3)))/2*i(B1)
* v(N3) is resistance of hotspot

*switch that shorts resistance to ground when
*superconductivity is restored
SA N1 center N2 0 Srestore OFF

** S/C SENSE SUBCIRCUIT **
**Superconducting to Resistive Transition
*dependent source used to store state
B2 N2 0 V=if((abs(i(Lg))>{Isw_g})|(abs(v(N1)-v(center))>{Vthresh_g}),1,0)
R2 N2 0 1
* v(N2) is 0 if wire s/c, 1 if not

** HOTSPOT GROWTH INTEGRATOR SUBCIRCUIT **
*dependent current source that represents
*hotspot S-N boundary velocity
B3 0 N3 I=if(v(N2) & v(N3)<{Rnorm_g},(psi*(i(Lg)/{Isw_g})**2-2)
+/((sqrt((({psi}*(i(Lg)/{Isw_g})**2-1)+abs({psi}*
+(i(Lg)/{Isw_g})**2-1))/2)+{delta})),0)

*capacitor that integrates hotspot velocity
C1 N3 0 {(width_g)/(sheetres*vo)}
* hotspot resistance is v(N3)
*switch that shorts capacitor to ground when
*superconductivity is restored
S1 N3 0 N2 0 Srestore OFF

*********************************************************************************
** MODULATION OF CHANNEL CRITICAL CURRENT **

R03 gate 0 1e-100

Bc_s 0 gate I=if(abs(i(Lg))>{Isw_g} ,
+{A1}*exp(-(abs(i(Lg))-{Isw_g})/{beta}),1)


*********************************************************************************


** MAIN CIRCUIT SOURCE **
* inductor
Ls s N01c Flux=((1-(v(N04)/{Rnorm_s})+0.001)*{Lind_s}
+/(2*cos((2/3)*asin((0.6*abs(x))/{Isw_s}))-1))*x Rser = 1e-100

Lc1 N01c N01 Flux=((1-(v(N03)/{Rnorm_c/2})+0.001)*{Lind_c/2}
+/(2*cos((2/3)*asin((0.6*abs(x))/{Isw_c}))-1))*x Rser = 1e-100

* hotspot resistor
B01 N01 center V=((v(N03)+v(N04)+abs(v(N03)+v(N04)))/2)*i(B01)
* v(N03) is resistance of hotspot

*switch that shorts resistance to ground when
*superconductivity is restored
SB N01 center N02 0 Srestore OFF

** S/C SENSE SUBCIRCUIT **
**Superconducting to Resistive Transition
*dependent source used to store state
B02 N02 0 V=if((abs(i(Lc1))>{Isw_c}*abs(i(R03)) )
+|(abs(v(N01)-v(center))>{Vthresh_c}),1,0)
R02 N02 0 1
* v(N02) is 0 if wire s/c, 1 if not

** HOTSPOT GROWTH INTEGRATOR SUBCIRCUIT **
*dependent current source that represents
*hotspot S-N boundary velocity
B03 0 N03 I=if(v(N02) & v(N03)<={Rnorm_c/2} ,
+({psi}*(i(Ls)/{Isw_c})**2-2)/((sqrt((({psi}*(i(Ls)/{Isw_c})**2-1)+
+abs({psi}*(i(Ls)/{Isw_c})**2-1))/2)+{delta})),0)
B04 0 N04 I=if(v(N02) & v(N03)>{Rnorm_c/2} & V(N04)<{Rnorm_s},
+({psi}*(i(Ls)/{Isw_s})**2-2)/((sqrt((({psi}*(i(Ls)/{Isw_s})**2-1)+
+abs({psi}*(i(Ls)/{Isw_s})**2-1))/2)+{delta})),0)

*capacitors that integrate hotspot velocity
C01 N03 0 {{width_c}/(sheetres*vo)}
  * hotspot channel resistance is v(N03)
C02 N04 0 {{width_s}/(sheetres*vo)}
R02C N04 0 100e9
  * hotspot source resistance is v(N04)
*switch that shorts capacitor to ground when
*superconductivity is restored
S01 N03 0 N02 0 Srestore OFF


*********************************************************************************


** MAIN CIRCUIT DRAIN AND CHANNEL **


* inductors
Ld d N100  Flux=((1.001-(v(N004)/{Rnorm_d}))*{Lind_d}
+/(2*cos((2/3)*asin((0.6*abs(x))/{Isw_d}))-1))*x Rser = 1e-100

Lc2 N100 N001  Flux=((1.001-(v(N003)/{Rnorm_c/2}))*{Lind_c/2}
+/(2*cos((2/3)*asin((0.6*abs(x))/{Isw_c}))-1))*x Rser = 1e-100


* hotspot resistor
B001 N001 center V=((v(N003)+v(N004)+abs(v(N003)+v(N004)))/2)*i(B001)
  * v(N003) is resistance of hotspot

*switch that shorts resistance to ground when
*superconductivity is restored
SC N001 center N002 0 Srestore OFF


** S/C SENSE SUBCIRCUIT **

**Superconducting to Resistive Transition

*dependent source used to store state
B002 N002 0 V=if((abs(i(Lc2))>{Isw_c}*abs(i(R03)))
+|(abs(v(N001)-v(center))>{Vthresh_c}),1,0)
R002 N002 0 1
  * v(N002) is 0 if wire s/c, 1 if not

** HOTSPOT GROWTH INTEGRATOR SUBCIRCUIT **
*dependent current sources that represent
*hotspot S-N boundary velocity
B003 0 N003 I=if(v(N002) & v(N003)<={Rnorm_c/2} ,
+({psi}*(i(Ld)/{Isw_c})**2-2)/((sqrt((({psi}*(i(Ld)/{Isw_c})**2-1)+
+abs({psi}*(i(Ld)/{Isw_c})**2-1))/2)+{delta})),0)
B004 0 N004 I=if(v(N002) & v(N003)>{Rnorm_c/2} & V(N004)<{Rnorm_d},
+({psi}*(i(Ld)/{Isw_d})**2-2)/((sqrt((({psi}*(i(Ld)/{Isw_d})**2-1)+
+abs({psi}*(i(Ld)/{Isw_d})**2-1))/2)+{delta})),0)

*capacitors that integrate hotspot velocity
C001 N003 0 {{width_c}/(sheetres*vo)}
  * hotspot channel resistance is v(N003)
C002 N004 0 {{width_d}/(sheetres*vo)}
  * hotspot drain resistance is v(N004)

*switchs that short capacitors to ground when
*superconductivity is restored
S001 N003 0 N002 0 Srestore OFF
S002 N004 0 N002 0 Srestore OFF

**resistance measurements
B_g r_g 0 V=(v(N3)+abs(v(N3)))/2
B_s r_s 0 V=(v(N04)+abs(v(N04)))/2
B_c r_c 0 V=(v(N003)+abs(v(N003)))/2 + (v(N03)+abs(v(N03)))/2
B_d r_d 0 V=(v(N004)+abs(v(N004)))/2


.model Srestore SW(Vt={0.5V} Roff=1m Ron=10G)
.ends ntron
*$
